US09353116B2
Preparation of 2-(methoxy(3-nitrophenyl)methylene)malononitrile (25)
A solution of 3-nitrobenzoylchloride (25 g, 134 mmol), malononitrile (9.74 g, 147 mmol) and THF (140 mL) was cooled to 0° C. DIPEA (59 mL, 335 mmol) was added dropwise and the reaction was allowed to warm to room temperature and proceed for 2 hours. Afterwards, dimethylsulfate (38 mL, 399 mmol) was added and the temperature was raised to 70° C. for 4 hours. Next, the reaction mixture was brought to room temperature and allowed to proceed for an additional 12 hours. EtOAc (200 mL) was added to the reaction mixture in addition to brine (200 mL). The organic and aqueous layers were separated and the aqueous layer was extracted with EtOAc (4×25 mL). The combined organic layers were dried with MgSO4 and concentrated in vacuo. The material was purified over a silica column using chloroform:hexane (90:10) initially and eluted with pure chloroform. After concentrating the fractions containing the product, a yellow oil was triturated with diethyl ether to yield a solid (11.3 g, 37% yield): 1H NMR (400 MHz, DMSO) δ 8.63 (s, 1H), 8.51 (d, J=7.7, 1H), 8.16 (d, J=7.7, 1H), 7.94 (t, J=7.8, 1H), 3.93 (s, 3H); 13C NMR (100 MHz, DMSO) δ 183.66, 147.82, 135.23, 131.00, 129.55, 127.15, 124.08, 113.31, 111.87, 66.71, 61.87; [M+H]− calculated for C11H7N3O3 228.0, found 214.10 (product appears to hydrolyze during LC/MS analysis).

reactant | 3-nitrobenzoylchloride | 134 mmol, 25 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
reactant | malononitrile | 147 mmol, 9.74 g | C(CC#N)#N | C3H2N2
reactant | DIPEA | 335 mmol, 59 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | dimethylsulfate | 399 mmol, 38 mL | COS(=O)(=O)OC | C2H6O4S
solvent | brine | 200 mL | [Cl-].[Na+].O
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | THF | 140 mL | C1CCOC1 | C4H8O
product | 2-(methoxy(3-nitrophenyl)methylene)malononitrile | 11.3 g, 37% yield | COC(=C(C#N)C#N)C1=CC(=CC=C1)[N+](=O)[O-] | C11H7N3O3
